US07321050B2
Experiment 34. 5-[2-(2,6-Difluorophenyl)ethenyl]-2-i-propyl-1,3-benzenediol (42B).
This material was prepared from 1-(2,6-difluorophenyl)-2-(3,5-dimethoxy-4-i-propylphenyl)ethene and pyridine hydrochloride in 29% yield in the same way as described in example 34. 1HNMR (CDCl3, ppm): δ 1.42 (d, J=7.1 Hz, 6H), 3.50 (qint, J=7.1 Hz, 1H), 4.77 (br, 2H), 6.57 (s, 2H), 6.8-7.4 (m, 5H).

reactant | 1-(2,6-difluorophenyl)-2-(3,5-dimethoxy-4-i-propylphenyl)ethene | FC1=C(C(=CC=C1)F)C=CC1=CC(=C(C(=C1)OC)C(C)C)OC | C19H20F2O2
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 5-[2-(2,6-Difluorophenyl)ethenyl]-2-i-propyl-1,3-benzenediol | 29% yield | FC1=C(C(=CC=C1)F)C=CC=1C=C(C(=C(C1)O)C(C)C)O | C17H16F2O2
